US05393875
In an analogous manner to that described above, by the condensation of rac-α-(tert-butoxyformamido)-3-(thiophen-2-yl)propionic acid [Pol. J. Chem. 54(11-12), 2225 (1980)] and (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol followed by acidic hydrolysis there was obtained (RS)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(thiophen-2-yl)propionamide, MS: 381 (M+H)+ as a colourless foam.

reactant | rac-α-(tert-butoxyformamido)-3-(thiophen-2-yl)propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
product | (RS)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(thiophen-2-yl)propionamide | NC(C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1SC=CC1 | C20H32N2O3S
